* C:\TEMP\EE310_Group9_Water-Level-Sensor\Phase3_Receiver\Receiver part 1.asc
* Generated by LTspice 26.0.1 for Windows.
X§U9 V_bias N002 5V_test2 0 Vdet1 TLC081 ;§pnba In+)In-)V+)V-)OUT
C12 N002 0 4p
R11 N002 0 555555
I1 N002 0 PULSE(0 9u 0.00000000001 0.00000000001 0.00000000001 111u 333u 0)
R25 Vdet1 N002 10k
C17 Vdet1 N002 16p
R28 N007 V_bias 80k
R32 N004 V_bias 10k
X§U10 N007 N004 5V 0 V_IN_RX TLC081 ;§pnba In+)In-)V+)V-)OUT
C11 N007 Vdet1 10n
R33 V_IN_RX N004 150k
X§U13 N009 V_IN_RX 5V 0 V_SQ TLC081 ;§pnba In+)In-)V+)V-)OUT
R34 N009 V_bias 100
R35 V_SQ N009 100k
X§U14 N006 V_bias 5V 0 N005 TLC081 ;§pnba In+)In-)V+)V-)OUT
R37 N006 V_P 200
R38 N005 N006 100k
D3 V_SQ N003 1N4148
C19 N003 V_P 10n
R40 N003 V_P 1532
R41 V_P 0 2700
R42 V_LP N005 100
C18 V_LP 0 10µ
X§U15 N011 N008 5V_test2 0 N010 TLC081 ;§pnba In+)In-)V+)V-)OUT
R43 N011 0 100
R46 0 N011 100
C20 N011 0 1µ
C21 0 N008 1µ
R44 0 N008 100
R45 0 N010 100
C22 0 0 1n
V1 V_bias 0 2.5
X§U1 Vin N001 5V_test2 0 Vdetlow TLC081 ;§pnba In+)In-)V+)V-)OUT
C1 N001 0 4p
R1 N001 0 555555
I2 N001 0 PULSE(0 100n 0.00000000001 0.00000000001 0.00000000001 6u 30.33u 0)
R2 Vdetlow N001 10k
C2 Vdetlow N001 16p
V2 5V 0 5
.model D D
.lib C:\Users\esto675\AppData\Local\LTspice\lib\cmp\standard.dio
.lib LM324.lib
.tran 0 100ms 0 10u
* Load simulation. MAKE SURE NOT TO PUT Lload and Rload on PCB
* PWM generator with changing capacitance
.lib LTC.lib
.include TLC081.mod
* Input conditioning
* Light Detector
* Input signal conditioning w/ high pass filter
* Receiver (Rx) Designs
* Positive edge detector
* comparator for square wave
* Pulse generator
* Comparator w/ low pass for avg
* SFH 203 P characteristics:\n400-1100 nm\nC_0 = 4pF @ 2V, 3.5pF @ 5V\nIp = 9uA @ 1k lx\nIp = 100nA @ low light\nI_R = 1-5 nA @ V_R = 20V\nR_leak = 20/5n = 4x10^9 Ohms
* Cutoff frequency f_0 =1/(2 pi R_F C_F)
* buffer
* assuming frequency range of 3k to 30k
* fc is currently 1MHz to keep around 10x our signal freq
* Light Detector
* low light
* aiming for a gain of 10
* fc 200Hz to get rid of dc
.backanno
.end
